US04284755
N-(3'-Cyclohexylaminopropyl)-aspartic acid-4-methyl ester
356 g (3.4 mols+14% excess) of maleic acid monomethyl ester are placed into a glass flask provided with stirrer, thermometer, condenser and dropping funnel, and, with vigorous stirring and ice-water cooling, 480 ml of triethylamine are added dropwise at 5°-8° C. internal temperature within 2 hours. 372.6 g (2.4 mols) of 3-cyclohexylaminopropylamine are then quickly introduced; the exothermic reaction is subsequently allowed to subside, and the reaction mixture is heated within 30 minutes to 85° C., in the course of which the reaction product crystallises out. After the reaction has finished, the temperature is lowered to room temperature; the product is mixed with 1100 ml of acetone and is filtered off; the filter residue is again mixed with 900 ml of acetone, and the suspension is filtered; the filter residue is then washed with acetone, and the product is dried at 60° C. and 53.2 mbars. The yield is 555.4 g (87.2% of theory) of a white crystalline aspartic acid derivative, which decomposes at 163° C.

reactant | maleic acid monomethyl ester | 3.4 mols, 356 g | COC(\C=C/C(=O)O)=O | C5H6O4
reactant | 3-cyclohexylaminopropylamine | 2.4 mols, 372.6 g | C1(CCCCC1)NCCCN | C9H20N2
solvent | triethylamine | 480 ml | C(C)N(CC)CC | C6H15N
product | N-(3'-Cyclohexylaminopropyl)-aspartic acid-4-methyl ester | COC(C[C@H](NCCCNC1CCCCC1)C(=O)O)=O | C14H26N2O4
